US08629282B2
(3S,4R)-4-(tert-Butyldimethylsilyloxy)-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-amine (50 mg, 0.09 mmol) was dissolved in acetonitrile (716 μl). To this solution was added K2CO3 (12.4 mg, 0.09 mmol) and tert-butyl 2-bromoacetate (15.9 μl, 0.11 mmol). The resulting solution was stirred at room temperature overnight. This was diluted with DMF and filtered to remove solid material and was purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21×250 mm, gradient elution with Method 1-MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM) to give tert-butyl 2-((3S,4R)-4-(tert-butyldimethylsilyloxy)-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-ylamino)acetate (LCMS [M+H]+=673.3), which was dissolved in CH2Cl2 (4 mL) and TFA (1.5 mL). This solution was stirred for 2 h before it was concentrated. The resulting residue was dissolved in 4 N HCl in dioxane (1.0 mL) and 6 N HCl aqueous solution (0.5 mL) and stirred overnight. Next, the reaction was stirred at 50° C. for 4 h. After cooling, the solution was mixed with MeCN and purified by preparative HPLC (Column: PHENOMENEX® Luna C18, 5-μm particles (30×100 mm; Guard Column: none; Mobile Phase A: 5:95 acetonitrile:water with 0.1% TFA; Mobile Phase B: 95:5 acetonitrile:water with 0.1% TFA; Gradient: 15%-100% B over 10 minutes; Flow: 30 mL/min, uv detection 254 nM) to give 2-((3S,4R)-4-hydroxy-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-ylamino)acetic acid, TFA salt Ex 67 (44.5 mg): LCMS [M+H]+=503.0; 1H NMR (400 MHz, CD3OD) δ ppm 7.89 (1H, dd, J=8.03, 1.65 Hz), 7.60-7.76 (8H, m), 5.17 (1H, d, J=4.18 Hz), 4.44-4.58 (2H, m), 4.06 (2H, d, J=2.64 Hz), 3.90-3.97 (1H, m); HPLC Peak RT=7 5 min (Analytical Method A).

reactant | (3S,4R)-4-(tert-Butyldimethylsilyloxy)-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-amine | 0.09 mmol, 50 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H](COC2=CC(=CC=C12)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)N | C27H29F3N4O4Si
reactant | K2CO3 | 0.09 mmol, 12.4 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoacetate | 0.11 mmol, 15.9 μl | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetonitrile | 716 μl | C(C)#N | C2H3N
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 2-((3S,4R)-4-(tert-butyldimethylsilyloxy)-7-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)chroman-3-ylamino)acetate | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H](COC2=CC(=CC=C12)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)NCC(=O)OC(C)(C)C | C33H39F3N4O6Si
